US07713994B2
(4Z)-6-Anilino-4-({[4-(piperidin-1-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
Using the procedure described for the preparation of example 118, the title compound is obtained as yellow solid (70% yield) from 6-bromo-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione and aniline.

reactant | 6-bromo-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)CN1CCCCC1 | C22H22BrN3O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | (4Z)-6-Anilino-4-({[4-(piperidin-1-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | N(C1=CC=CC=C1)C=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)CN1CCCCC1 | C28H28N4O2
